US07960545B2
(iii) Preparation of 4-Chloro-6,7-diacetoxy-quinazoline of formula (11) (X═Cl)
Into a 3.0 L four necked round bottomed flask, equipped with a mechanical stirrer, reflux condenser, pressure equalizing addition funnel and thermometer socket are charged chloroform (1000 ml), 6,7-diacetoxy-4(3H)-quinazolinone (50 g) obtained by the process described in step (ii) above and dimethylformamide (2 ml). Oxalyl chloride (50 g) was slowly added in about 20-30 minutes. The reaction mass was slowly heated to reflux temperature and maintained at reflux temperature for 6 hours. Reaction was found to be over by HPLC. Cooled the reaction mass to 25-30° C. and slowly quenched into saturated sodium bicarbonate solution at less than 10° C. Separated the organic layer and dried over anhydrous sodium sulfate. The dried organic layer thus obtained was directly used in the next step without any purification.

reactant | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 6,7-diacetoxy-4(3H)-quinazolinone | 50 g | C(C)(=O)OC=1C=C2C(NC=NC2=CC1OC(C)=O)=O | C12H10N2O5
reactant | Oxalyl chloride | 50 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-6,7-diacetoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC(C)=O | C12H9ClN2O4
